US04772600
N,N-Diethyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (10.0 g, 0.0312 mole), 1,1'-carbonyldiimidazole (6.1 g, 0.0374 mole), and dry tetrahydrofuran (250 ml) was stirred at room temperature for 3 hr with a stream of nitrogen bubbling through it. An additional 6.1 g (0.0374 mole) of 1,1'-carbonyldiimidazole was added, and the suspension was stirred at room temperature under nitrogen overnight. The suspension was heated at 50° C. for 2 hours and then treated with diethylamine (7.07 g, 0.097 mole) in dry tetrahydrofuran (10 ml). The reaction mixture was heated at 50° C. for 5 hr and allowed to stand at room temperature over the weekend. The solvent was evaporated under reduced pressure, the resulting solid was triturated in water (200 ml) and filtered. The solid was dissolved in hot isopropyl alcohol, treated with charcoal and filtered while hot. Upon cooling, a solid precipitated. The solid was filtered and rinsed with isopropyl ether to give 6.4 g (55%) of white solid, mp 140.5°-142.5° C.

reactant | 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0312 mole, 10.0 g | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
reactant | 1,1'-carbonyldiimidazole | 0.0374 mole, 6.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1'-carbonyldiimidazole | 0.0374 mole, 6.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethylamine | 0.097 mole, 7.07 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N,N-Diethyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 6.4 g, 55% | C(C)N(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)CC | C19H19F3N4O
